US07902237B2
Preparation of 3-(3-benzyl-5-dimethylaminomethylene-4-oxothiazolidin-2-ylideneamino)-4-ethylamino-benzonitrile
To a solution of 3-(3-benzyl-4-oxothiazolidin-2-ylideneamino)-4-ethylamino-benzonitrile (84 mg, 0.24 mmol) in toluene (1.0 mL, anhyd) was added N,N-dimethylformamide dimethyl acetal (1.0 mL, 7.5 mmol). The reaction mixture was heated at 125° C. After 20 h, the mixture was cooled and chromatographed (silica gel, DCM) to afford the title product (60 mg, 62%) as a pale yellow solid. 1H-NMR (CDCl3): δ 7.60 (1H, s), 7.24-7.40 (6H, m), 7.15 (1H, d), 6.46 (1H, d), 5.09 (2H, s), 4.14 (1H, br t), 3.12 (6H, s), 2.98 (2H, m), 0.99 (3H, t); MS (ESI): 406 (MH+).

reactant | 3-(3-benzyl-4-oxothiazolidin-2-ylideneamino)-4-ethylamino-benzonitrile | 0.24 mmol, 84 mg | C(C1=CC=CC=C1)N1C(SCC1=O)=NC=1C=C(C#N)C=CC1NCC | C19H18N4OS
reactant | N,N-dimethylformamide dimethyl acetal | 7.5 mmol, 1.0 mL | COC(N(C)C)OC | C5H13NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(3-benzyl-5-dimethylaminomethylene-4-oxothiazolidin-2-ylideneamino)-4-ethylamino-benzonitrile | 60 mg, 62% | C(C1=CC=CC=C1)N1C(SC(C1=O)=CN(C)C)=NC=1C=C(C#N)C=CC1NCC | C22H23N5OS
